US08211904B2
Step 2: 1-fluoro-4-{[(1R)-1-methylpropyl]oxy}-2-vinylbenzene
To a solution of 2-chloro-1-fluoro-4-{[(1R)-1-methylpropyl]oxy}benzene (1.75 g, 8.64 mmol) in dioxane (28.8 ml) under argon were added bis(tri-t-butylphosphine) palladium(0) (0.221 g, 0.432 mmol) and cesium fluoride (2.89 g, 19.0 mmol). Argon was bubbled through the reaction for 2 min. To the reaction was added tributyl (vinyl) tin (3.03 ml, 10.4 mmol) and the argon bubbled for another 5 min. The reaction was sealed and heated to 100° C. overnight. The reaction was partitioned between H2O and EtOAc. The aqueous phase was extracted with EtOAc (3 times). The combined organics were dried with MgSO4, filtered, and concentrated. The residue was purified by column chromatography on a silica gel cartridge (0% EtOAc/hexanes to 4% EtOAc/hexanes) to give the desired product.

reactant | 2-chloro-1-fluoro-4-{[(1R)-1-methylpropyl]oxy}benzene | 8.64 mmol, 1.75 g | ClC1=C(C=CC(=C1)O[C@@H](CC)C)F | C10H12ClFO
reactant | cesium fluoride | 19.0 mmol, 2.89 g | [F-].[Cs+]
reactant | tributyl (vinyl) tin | 10.4 mmol, 3.03 ml | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | dioxane | 28.8 ml | O1CCOCC1 | C4H8O2
catalyst | bis(tri-t-butylphosphine) palladium(0) | 0.432 mmol, 0.221 g | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | 1-fluoro-4-{[(1R)-1-methylpropyl]oxy}-2-vinylbenzene | FC1=C(C=C(C=C1)O[C@@H](CC)C)C=C | C12H15FO
